US06355636B1
4-Chloro-6-nitro-[1.8]naphthyridine-3-carbonitrile
A mixture of 19.3 g (89.3 mmol) of 6-nitro-4-oxo-1,4-dihydro-[1.8]naphthyridine-3-carbonitrile in 386 ml of phosphorous oxychloride was refluxed for 24 hr. Excess phosphorous oxychloride was removed. The residue is mixed with ethyl acetate and 15 g of potassium hydroxide in 200 ml of ice water. The organic layer was separated and the aqueous layer was extract several more times with ethyl acetate. The combined volume of extracts was 4000 ml. The extracts were dried of magnesium sulfate and the solution was filter through a short silica gel column. The solvent was removed. The residue was stirred with ether and the solid was collected giving 15.7 g of the title compound as an orange solid: mass spectrum (electrospray, m/e): M+H 235.

reactant | 6-nitro-4-oxo-1,4-dihydro-[1.8]naphthyridine-3-carbonitrile | 89.3 mmol, 19.3 g | [N+](=O)([O-])C=1C=C2C(C(=CNC2=NC1)C#N)=O | C9H4N4O3
reactant | phosphorous oxychloride | 386 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-nitro-[1.8]naphthyridine-3-carbonitrile | 15.7 g | ClC1=C(C=NC2=NC=C(C=C12)[N+](=O)[O-])C#N | C9H3ClN4O2
